US06407093B1
1-(3-Methylbutyl)4-(3,4-dihydro-2H-benzothiopyran-4-yl)homopiperazine
A dry 100 ml 3-necked flask under nitrogen was charged with N-(3,4-dihydro-2H-benzothiopyran-4-yl)homopiperazine (1.0 g; 4.03 mmol) and treated sequentially with tetrahydrofuran (20 ml), methanol (10 ml), isoamyl aldehyde (5.0 ml; 46.0 mmol), sodium cyanoborohydride, (0.40 g; 6.4 mmol) and acetic acid (0.4 ml) as in Example 3. The resulting material was purified by kugelrohr distillation to give an oil (1.09 g), bp (air bath temperature) 150°-160° C. at 200 mtorr; 1H NMR (300 MHz, CD3OD) δ0.88-0.90 (d, 6H).

reactant | N-(3,4-dihydro-2H-benzothiopyran-4-yl)homopiperazine | 4.03 mmol, 1.0 g | S1CCC(C2=C1C=CC=C2)N2CCNCCC2 | C14H20N2S
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | methanol | 10 ml | CO | CH4O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
product | 1-(3-Methylbutyl)4-(3,4-dihydro-2H-benzothiopyran-4-yl)homopiperazine | 1.09 g | CC(CCN1CCN(CCC1)C1CCSC2=C1C=CC=C2)C | C19H30N2S
